US04772563
Synthesis of 4,7-diphenyl-1,10-phenanthroline-2,9-dicarboxaldehyde
A mixture of bathocuproine (0.8 g, 2.2 mmole), selenium dioxide (1.16 g, 10.4 mmole), dioxane (29.6 ml) and water (1.25 ml) was heated with stirring in an oil bath at 110° for 2 hr. The hot mixture was then filtered through Celite to remove selenium metal. Water was added to the hot filtrate until slight cloudiness appeared. The mixture was then placed in the refrigerator to allow the product to precipitate. The product, which was contaminated by red selenium metal, was collected by vacuum filtration. Yield=88%. Mp=165°-170°. IR 3200-3600, 2800-3050, 1717, 1590, 1550, 1495, 1445, 1400, 1355, 1295, 1255, 1190, 1120, 1080, 875, 780, 705, 620 cm-1. 60 MHz proton NMR in CDCl3 δ7.2 (10 protons), δ7.7, δ7.95 (4 protons), δ10.05 (<2 protons).

reactant | bathocuproine | 2.2 mmole, 0.8 g | CC=1C=C(C=2C=CC=3C(=CC(=NC3C2N1)C)C=4C=CC=CC4)C=5C=CC=CC5 | C26H20N2
reactant | selenium dioxide | 10.4 mmole, 1.16 g | [Se](=O)=O | O2Se
reactant | dioxane | 29.6 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.25 ml | O | H2O
product | 4,7-diphenyl-1,10-phenanthroline-2,9-dicarboxaldehyde | Yield=88% | C1(=CC=CC=C1)C1=CC(=NC2=C3N=C(C=C(C3=CC=C12)C1=CC=CC=C1)C=O)C=O | C26H16N2O2
